US05204178
A mixture of 8.62 g of 4-[N-methyl-N-(11-hydroxyundecyl)-amino]-benzaldehyde, 4.33 g of 4-nitrophenylhydrazine and 25 ml of glacial acetic acid were [sic] refluxed for 30 minutes and left to stand overnight at room temperature. 70 ml of ice water were added to the resulting reaction mixture and the mixture was stirred thoroughly After the water had been removed from the reaction mixture, the reaction product, which had now precipitated, was separated off and then subjected to preliminary purification by boiling with active carbon in acetone. The prepurified product was then purified by flash chromatography on silica gel, a mixture of hexane and ethyl acetate in a volume ratio of 6:4 being used as the mobile phase. A total of 3.4 g of 4'-N-methyl-N-(11-hydroxyundecyl)-amino]-benzaldehyde-4-nitrophenylhydrazone were obtained, corresponding to a yield of 28% of theory. In its IR spectrum, this product, in the form of a KBr pellet, had bands at 3,400, 3,250, 1,585, 1,510, 1,490, 1,460, 1,320, 1,290, 1,270, 1,170, 1,100, 830 and 810 cm-1.

reactant | 4-[N-methyl-N-(11-hydroxyundecyl)-amino]-benzaldehyde | 8.62 g | CN(CCCCCCCCCCCO)C1=CC=C(C=O)C=C1 | C19H31NO2
reactant | 4-nitrophenylhydrazine | 4.33 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | benzaldehyde-4-nitrophenylhydrazone | yield of 28% | [N+](=O)([O-])C1=CC=C(C=C1)NN=CC1=CC=CC=C1 | C13H11N3O2
